US04863920
5.52 g of 5,6-dihydro-7-iodo-5-methyl-4H-imidazo[1,5-a]thieno[3,2-f][1,4]diazepine-one in 30 ml of diethylamine was treated with 1.92 ml of 2-methyl-3-butyn-2-ol, 75 mg of bis-(triphenylphosphine)-palladium(II) chloride and 13 mg of copper(I) iodide. The mixture was stirred at reflux temperature for 2 hours. The reaction mixture was then evaporated in a vacuum. The residue was dissolved in dichloromethane and this solution was washed twice with water. After drying over sodium sulphate this solution was chromatographed through 300 g of silica gel. Unreacted starting material was first recovered with dichloromethane/ethanol mixtures 99:1, 98:2 and 97:3. There was then eluted with dichloromethane/ethanol mixtures 96:4 and 95:5 an oily substance which crystallized from ethyl acelate/diethyl ether. There was obtained 5,6-dihydro-7-(3-hydroxy-3-methyl-1-butynyl)-5-methyl-4H-imidazo[1,5-a]-thieno[3,2-f][1,4]diazepine-one of melting point 180°-181°.

reactant | 5,6-dihydro-7-iodo-5-methyl-4H-imidazo[1,5-a]thieno[3,2-f][1,4]diazepine-one | 5.52 g | IC=1N=CN2C1CN(CC1=C2S(C=C1)=O)C | C10H10IN3OS
reactant | 2-methyl-3-butyn-2-ol | 1.92 ml | CC(C)(C#C)O | C5H8O
solvent | diethylamine | 30 ml | C(C)NCC | C4H11N
catalyst | bis-(triphenylphosphine)-palladium(II) chloride | 75 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 13 mg | [Cu]I
product | 5,6-dihydro-7-(3-hydroxy-3-methyl-1-butynyl)-5-methyl-4H-imidazo[1,5-a]-thieno[3,2-f][1,4]diazepine-one | OC(C#CC=1N=CN2C1CN(CC1=C2S(C=C1)=O)C)(C)C | C15H17N3O2S
